datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH:10]CCN.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCC[NH+:10](CCN)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCOCC[NH:10]c1cccc(OC)c1.COCC[S+:21](C(C)O)[H:20]>>CCOCC[NH+:10](c1cccc(OC)c1)[H:20].COCC[S:21]C(C)O 10=20;20,21=21",
"C(=C\c1cc[n:10]cc1)\c1ccccc1.C[NH+:21](c1cccc2ccccc12)[H:20]>>C(=C\c1cc[n+:10]([H:20])cc1)\c1ccccc1.C[NH:21]c1cccc2ccccc12 10=20;20,21=21",
"CCN(CC)[N+:21](CC)(CC)[H:20].COc1cc(C)nc(-n2nc(C)cc2[O-:10])n1>>CCN(CC)[N:21](CC)CC.COc1cc(C)nc(-n2nc(C)cc2[O:10][H:20])n1 10=20;20,21=21",
"CCC(O)C[N:10](CC)CCO.CC[N+:21](CC#N)(CC#N)[H:20]>>CCC(O)C[N+:10](CC)(CCO)[H:20].CC[N:21](CC#N)CC#N 10=20;20,21=21",
"NC(=O)Nc1ncnc2nc[n:21]([H:20])c12.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:10]2)[nH]1>>NC(=O)Nc1ncnc2nc[n-:21]c12.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"CC[N:10](O)CC.Cc1c(Cl)c[nH][n+:21]1[H:20]>>CC[N+:10](O)(CC)[H:20].Cc1c(Cl)c[nH][n:21]1 10=20;20,21=21",
"CCC(C)[NH2+:21][H:20].NC(=O)C(Cc1c[nH]c2ccccc12)[NH2:10]>>CCC(C)[NH2:21].NC(=O)C(Cc1c[nH]c2ccccc12)[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10]1CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.Nc1nc2cc3ccccc3cc2[n:21]1[H:20]>>CC[N+:10]1([H:20])CCCC1CNS(=O)(=O)c1ccc(OC)c(OC)c1OC.Nc1nc2cc3ccccc3cc2[n-:21]1 10=20;20,21=21",
"Cc1ccc([O-:10])cc1C.[NH3+]CCCCCCCC(=O)[O:21][H:20]>>Cc1ccc([O:10][H:20])cc1C.[NH3+]CCCCCCCC(=O)[O-:21] 10=20;20,21=21",
"CC[As](CC)(CC)=[O:10].NC(=O)C(N)CCC(=O)[O:21][H:20]>>CC[As](CC)(CC)=[O+:10][H:20].NC(=O)C(N)CCC(=O)[O-:21] 10=20;20,21=21",
"C=CCOc1nc(N)nc(N)[n+:21]1[H:20].c1c[nH][n:10]c1>>C=CCOc1nc(N)nc(N)[n:21]1.c1c[nH][n+:10]([H:20])c1 10=20;20,21=21",
"O=C1CNC(=O)C(Cc2ccc([O-:10])cc2)N1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1CNC(=O)C(Cc2ccc([O:10][H:20])cc2)N1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CCC[NH2:10].Cc1nc(N)nc(C)[n+:21]1[H:20]>>C#CCC[NH2+:10][H:20].Cc1nc(N)nc(C)[n:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CNC(=O)C[NH2:10])NCC(=O)N1CCCC1C(=O)[O-]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CNC(=O)C[NH2+:10][H:20])NCC(=O)N1CCCC1C(=O)[O-] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC[As](CC)(CC)=[O:10].Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O:21][H:20]>>CC[As](CC)(CC)=[O+:10][H:20].Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O-:21] 10=20;20,21=21",
"C[NH+](C)c1ccc(/C=C/c2cc[n:10]cc2)cc1.c1cc[n+]([O:21][H:20])cc1>>C[NH+](C)c1ccc(/C=C/c2cc[n+:10]([H:20])cc2)cc1.c1cc[n+]([O-:21])cc1 10=20;20,21=21",
"CSc1cccc([O:21][H:20])c1.Cc1ccc(C(C)C)cc1[O-:10]>>CSc1cccc([O-:21])c1.Cc1ccc(C(C)C)cc1[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CCNc1nc(C)cc(N)n1.COCc1ccccc1C[N+:21](C)(C)[H:20]>>CC[N+:10](CC)(CCNc1nc(C)cc(N)n1)[H:20].COCc1ccccc1C[N:21](C)C 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[N-:10]C(N)=O.Cc1ccc(S(=O)[O:21][H:20])cc1>>CC(C(N)=O)S(=O)(=O)[N:10](C(N)=O)[H:20].Cc1ccc(S(=O)[O-:21])cc1 10=20;20,21=21",
"C[N+:21]1([H:20])CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-])CC1.C[N:10](C)CC(Cl)CCl>>C[N+:10](C)(CC(Cl)CCl)[H:20].C[N:21]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-])CC1 10=20;20,21=21",
"CC(C)c1ccc(C(=O)[O-:10])cc1.Cc1cccc([N+](=O)[O-])c1C(=O)[O:21][H:20]>>CC(C)c1ccc(C(=O)[O:10][H:20])cc1.Cc1cccc([N+](=O)[O-])c1C(=O)[O-:21] 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH+:21]2[H:20].CC[N:10](CC)CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12>>C1CCC2C(C1)CCC[NH:21]2.CC[N+:10](CC)(CCCCCCNc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20] 10=20;20,21=21",
"C(COCCc1nnn[n:21]1[H:20])OCCc1nnn[n-]1.C[C@@H]([C@H](O)c1ccccc1)[N:10](C)C>>C(COCCc1nnn[n-:21]1)OCCc1nnn[n-]1.C[C@@H]([C@H](O)c1ccccc1)[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(C)(C)OOCCC(=O)[O:21][H:20].O=C(c1ccccc1CO)[O-:10]>>CC(C)(C)OOCCC(=O)[O-:21].O=C(c1ccccc1CO)[O:10][H:20] 10=20;20,21=21",
"CC(I)C(=O)[O:21][H:20].[O-]c1ccccc1[O-:10]>>CC(I)C(=O)[O-:21].[O-]c1ccccc1[O:10][H:20] 10=20;20,21=21",
"N#CCC(=O)N[NH2:10].c1ccc([NH+:21](C2CCCC2)[H:20])cc1>>N#CCC(=O)N[NH2+:10][H:20].c1ccc([NH:21]C2CCCC2)cc1 10=20;20,21=21",
"C[n+]1cccc2ccc([O:21][H:20])cc21.Cn1ccc(N)[n:10]1>>C[n+]1cccc2ccc([O-:21])cc21.Cn1ccc(N)[n+:10]1[H:20] 10=20;20,21=21",
"CCN(CC)C/C(=N\[O-:10])C(C)=NO.CC[N+:21](CC)(C(C)O)[H:20]>>CCN(CC)C/C(=N\[O:10][H:20])C(C)=NO.CC[N:21](CC)C(C)O 10=20;20,21=21",
"O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2s1)[O:21][H:20].O=C1C[C@@H]2OCC=C3C[N:10]4CC[C@@]56c7ccccc7N1[C@H]5C2[C@@]3(S(=O)(=O)[O-])C[C@@H]64>>O=C(c1cc2cc(Cn3cc[nH+]c3)ccc2s1)[O-:21].O=C1C[C@@H]2OCC=C3C[N+:10]4([H:20])CC[C@@]56c7ccccc7N1[C@H]5C2[C@@]3(S(=O)(=O)[O-])C[C@@H]64 10=20;20,21=21",
"Brc1ccc2nnn([O:21][H:20])c2c1.CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O:10]>>Brc1ccc2nnn([O-:21])c2c1.CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O+:10][H:20] 10=20;20,21=21",
"O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O:21][H:20].O=C(c1ccc2sc(Cn3cc[nH+]c3)cc2c1)[O-:10]>>O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O-:21].O=C(c1ccc2sc(Cn3cc[nH+]c3)cc2c1)[O:10][H:20] 10=20;20,21=21",
